US04910307
(d) 2-Amino-9-hydroxy-6-methoxypurine
A mixture of 2-amino-9-benzyloxy-6-methoxypurine (300 mg, 1.11 mmol), 10% palladium-on-charcoal (100 mg), ethanol (10 ml) and dioxan (5 ml) was stirred under an atmosphere of hydrogen for 45 minutes. The catalyst was then removed and the filtrate evaporated to a white solid 2-amino-9-hydroxy-6-methoxypurine (190 mg, 95%). IR: νmax (KBr) 3312, 1643, 1591, 1394 cm-1 ; 1H NMR: δH [(CD3)2SO] 3.95 (3H, s, CH3), 6.45 (2H, br.s, D2O exchangeable, NH2), 7.93 (1H, s, H-8), 11.75 (1H, br.s, OH). Found: m/e 181.0594. C6H7N5O2 requires: m/e 181.0596.

reactant | 2-amino-9-benzyloxy-6-methoxypurine | 1.11 mmol, 300 mg | NC1=NC(=C2N=CN(C2=N1)OCC1=CC=CC=C1)OC | C13H13N5O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-9-hydroxy-6-methoxypurine | NC1=NC(=C2N=CN(C2=N1)O)OC | C6H7N5O2
